US04159338
α-Furoin (19.2 g; 0.1 mole) was reacted with 11.5 g (0.15 mole) ammonium thiocyanate in ethanol heated at reflux to afford 11.4 g of 4,5-bis-(2-furyl)-1H-2-imidazolethiol. An analytical sample was prepared by chromatography on alumina with ethanol and recrystallization from nitromethane, m.p. 279°-380° (dec.).

reactant | α-Furoin | 0.1 mole, 19.2 g | C1=COC(=C1)C(C(=O)C2=CC=CO2)O | C10H8O4
reactant | ammonium thiocyanate | 0.15 mole, 11.5 g | [S-]C#N.[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 4,5-bis-(2-furyl)-1H-2-imidazolethiol | 11.4 g | O1C(=CC=C1)C=1N=C(NC1C=1OC=CC1)S | C11H8N2O2S
